US07982036B2
A neat mixture of tert-butyl 3-(6-chloropyrimidin-4-ylamino)pyrrolidin-1-carboxylate (354 mg, 1.18 mmol) and 3-chloro-4-fluoroaniline (3.03 g, 20.8 mmol) was heated at 140° C. for 21 hours. Upon cooling to ambient temperature, the melt was diluted with EtOAc and the mixture was stirred for 1 hour. A beige, amorphous precipitate was collected, washed with water and dried in vacuo at 50-60° C. giving 292 mg (80%) of N4-(3-chloro-4-fluorophenyl)-N6-(pyrrolidin-3-yl)pyrimidine-4,6-diamine. MS (APCI): (M+1)=308, (M−1)=306.

reactant | tert-butyl 3-(6-chloropyrimidin-4-ylamino)pyrrolidin-1-carboxylate | 1.18 mmol, 354 mg | ClC1=CC(=NC=N1)NC1CN(CC1)C(=O)OC(C)(C)C | C13H19ClN4O2
reactant | 3-chloro-4-fluoroaniline | 20.8 mmol, 3.03 g | ClC=1C=C(N)C=CC1F | C6H5ClFN
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | N4-(3-chloro-4-fluorophenyl)-N6-(pyrrolidin-3-yl)pyrimidine-4,6-diamine | 292 mg, 80% | ClC=1C=C(C=CC1F)NC1=NC=NC(=C1)NC1CNCC1 | C14H15ClFN5
